Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
syncope
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS: ___ male with pmhx of GERD 
and BPH who presents with episode of syncope. Pt states he went 
for a long walk this morning with his wife (for multiple miles), 
subsequently did not drink any water, came home, started cooking 
(and still hadnt eaten), then was eating lunch, after lunch he 
was sitting down when he began feeling lightheaded. He describes 
the lightheadedness as similar to when he works out at the gym 
and doesnt drink water. He says he subsequently passed out and 
was awoken by his wife. He says that his wife said he shook a 
little, but that he did not lsoe continence. He said he felt 
fine afterwards, but a little dehydrated. 
 
In the ED, initial vitals were: 98 60 90/58 98% RA. Labs were 
significant for Lactate:1.5, Cr 1.3, Trop-T: <0.01. Pt received 
2L NS and was admitted for workup of syncope.

Vital signs prior to transfer 98 63 97/51 18 100% RA.
 
On the floor, vs were 115/51 HR 66 RR 18 100 % on RA. sitting BP 
112/60 HR 64 standing BP 108/56 HR 68.  

 
Past Medical History:
 Low back pain/arthritis.
 Benign prostatic hypertrophy.
 Gastroesophageal reflux symptoms.
 History of tuberculosis status post treatment.
 Colon Cancer T1N0, s/p right colectomy, no h/o chemotherapy

 
Social History:
___
Family History:
His family history is notable for his father who had pancreatic 
cancer and his mother who had heart failure. 

 
Physical Exam:
Admission Exam:

On the floor, vs were 115/51 HR 66 RR 18 100 % on RA. sitting BP 
112/60 HR 64 standing BP 108/56 HR 68. 
General: Alert, oriented, no acute distress. REading magazine in 
bed.   
HEENT: Sclera anicteric, wet tongue and buccal gutter, 
oropharynx clear, EOMI, PERRL.   
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal s1 and s2 over aortic, 
pulmonic, tricuspid and mitral valves. 
Lungs: Clear to auscultation bilaterally on anterior and 
posterior chest.
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding.  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally. On gait exam, 
could walk tandem, on tip toes. Negative romberg. In fact, when 
sped up instructions, patient actually walked on tip toes with 
arms outstreched with eyes closed with no support.   

Discharge Exam:

TC 97 bp 105-107/57/55 HR 52-62 (on standing BP 106/60 HR 56) 
pulse ox 100 RA RR 18
General: Alert, oriented, no acute distress. REading magazine in 
bed.   
HEENT: Sclera anicteric, wet tongue and buccal gutter, 
oropharynx clear, EOMI, PERRL.   
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal s1 and s2 over aortic, 
pulmonic, tricuspid and mitral valves. 
Lungs: Clear to auscultation bilaterally on anterior and 
posterior chest.
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding.  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally. On gait exam, 
could walk tandem, on tip toes. Negative romberg. no pronator 
drift.  

 
Pertinent Results:
Lab Results On admission:

___ 03:50PM BLOOD WBC-6.2 RBC-4.30* Hgb-14.1 Hct-40.0 
MCV-93 MCH-32.8* MCHC-35.3* RDW-13.7 Plt ___
___ 03:50PM BLOOD Glucose-101* UreaN-26* Creat-1.3* Na-140 
K-3.9 Cl-103 HCO3-23 AnGap-18

On discharge:

___ 05:25AM BLOOD WBC-5.4 RBC-4.03* Hgb-13.1* Hct-37.9* 
MCV-94 MCH-32.5* MCHC-34.6 RDW-13.7 Plt ___
___ 05:25AM BLOOD Glucose-87 UreaN-20 Creat-1.0 Na-140 
K-4.3 Cl-105 HCO3-29 AnGap-___RIEF HOSPITAL COURSE

___ male presents with episode of syncope. He hiked a 
few hours with his wife in the morning and subsequently felt 
lightheaded after not drinking watre in the morning. Later in 
the day, after eating lunch, he sat down and syncopized; per 
wife no head strike; per pt no urinary or bowel incontinence. 
Was brought to ED from EMT because B/P was high 90's systolic. 

ACTIVE ISSUES
# Syncope: Upon further history taking, patient notes he run 
110-100' systolic BP routinely, and works out in a gym 2 X a 
week (and reports feeling lightheaded during strenuous activity 
with little water intake). Overnight telemetry on patient showed 
no events. Orthostatic taken overnight were negative. Given lack 
of cardiac disease, history of dehydration and post-prandial 
event, patient likely had a vaso-vagal event precipitated by a 
combination of hypovolemic hypotension and post-prandial 
hypotension.

TRANSITIONAL ISSUES
# Syncope: Per pcp, may consider stopping home tamsulosin as may 
cause pt to feel lightheaded or dizzy

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Finasteride 5 mg PO DAILY 
2. Oxybutynin 5 mg PO TID 
3. Zolpidem Tartrate 5 mg PO HS:PRN INSOMNIA 
4. Ranitidine 150 mg PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. Aspirin 81 mg PO DAILY 
7. Tamsulosin 0.4 mg PO HS 

 
Discharge Medications:
1. Omeprazole 20 mg PO DAILY 
2. Finasteride 5 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Ranitidine 150 mg PO DAILY 
5. Oxybutynin 5 mg PO TID 
6. Tamsulosin 0.4 mg PO HS 
7. Zolpidem Tartrate 5 mg PO HS:PRN INSOMNIA 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Vasovagal syncope

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were brought to the hospital because you lost consciousness 
after eating a large meal. After being brought to the hospital, 
and being evaluated overnight, with a thorough history and 
physical by our physicians and cardiac monitoring overnight, we 
determined the reason for your loss of consciousness was likely 
due to vaso-vagal syncope. We ask you to follow up with your PCP 
as needed. 

We wish you all the best!

-Your ___ Care team
 
Followup Instructions:
___